US09382188B2
step 1) ethyl 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carboxylate
A solution of ethyl 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carboxylate (15.84 g), 4-methoxybenzyl chloride (17.09 g) and potassium carbonate (18.85 g) in DMF (110 mL) was stirred at room temperature for 14 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (22.3 g) as a pale-yellow oil.

reactant | ethyl 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carboxylate | 15.84 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)O)C(=O)OCC | C16H15FO4
reactant | 4-methoxybenzyl chloride | 17.09 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 18.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
product | ethyl 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carboxylate | 22.3 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C(=O)OCC | C24H23FO5
